Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Cefepime / Aztreonam
 
Attending: ___.
 
Chief Complaint:
diarrhea
 
Major Surgical or Invasive Procedure:
Upper endoscopy (EGD)
Colonoscopy
 
History of Present Illness:
Ms. ___ is a ___ year old woman with accelerated CML s/p 
allo-transplant ___ complicated by GVHD of the GI/liver/muscle 
who has a trach due to respiratory failure from myositis related 
to GVHD who presented to her outpatient hematologist today with 
worsening diarrhea and was sent to the emergency room.  She 
reports that stool output varies throughout the day but has been 
worsening in the past several days.  She denies fevers, chills 
or night sweats.  She feels hungry currently but has no 
abdominal pain.
.
In the emergency department, initial vitals: 98.6 96 135/75 24 
100% 6L.  Blood and urine cultures were sent.  Stool was sent 
for C. Diff.  Labs were notable for slightly elevated LFTs 
compared to her baseline. 
.
Review of systems:
(+) Per HPI  
(-) Denies fever, chills, night sweats, recent weight loss or 
gain. Denies headache, sinus tenderness, rhinorrhea or 
congestion. Denied cough, shortness of breath. + secretions. 
Denied chest pain or tightness, palpitations. Denied nausea, 
vomiting, abdominal pain. No recent change in bowel or bladder 
habits. No dysuria. Denied arthralgias or myalgias. 

 
Past Medical History:
ONCOLOGIC HISTORY:  
- ___: Asymptomatic abnormal CBC noted by PCP during routine 
visit  
- ___: Bone marrow biopsy showed myeloproliferative 
disorder, likely chronic myelogenous leukemia. Per patient 
report, began taking interferon three times weekly shortly after 
diagnosis.  
- ___: Started Gleevec 400 mg daily. At some point 
thereafter, her dose was increased to 600 mg daily  
- ___: Gleevec increased to 400 mg twice daily with 
hydroxyurea and allopurinol  
- ___: Seen at ___, found to be 
in late chronic phase CML. Stem cell transplant was recommended, 
but she did not wish to pursue this course.  
- ___: ___ held due to worsening anemia and 
thrombocytosis. Started on Nilotinib  
- ___: Nilotinib held due to QTC prolongation, started on 
Dasatinib   
- ___: First seen at ___. Bone marrow biopsy showed 
accelerated phase CML. began induction chemo with 7+3.  
- ___: Admission for MRD SCT  
- ___: Discharged on day +32. Transplant complicated by  
mucositis with biopsy of the esophagus suggesting upper GI GVHD 
which was treated with steroids.  
- ___ colonoscopy showing lower GI GVHD  
- ___ readmitted with recurrent aGVHD of the liver upper 
and lower GI tract in the setting of reducing immunosuppression 
- course complicated by myositis due to GVHD requiring 
intubation, received IVIG on ___
.
.
PAST MEDICAL HISTORY: 
- atherosclerotic coronary vascular disease  
- status post CABG in ___  
- hypertension  
- hyperlipidemia  
- Right ankle surgery in ___  
- Total abdominal hysterectomy in ___  
- Appendectomy at age ___  

 
Social History:
___
Family History:
- father - died of MI, no other health problems
- mother - had heart problems, DM
Four siblings
- 2 bothers had CABG
- 1 brother prostate cancer
- Her sister ___ is her donor and is well 

 
Physical Exam:
ADMISSION PHYSICAL EXAM: 
T 98.5 BP 153/70 HR 118, RR 22 93% 10L TM
GENERAL: appears fatigued, pale, no acute distress.  Tach masck 
in place.
HEENT: No scleral icterus. PERRLA/EOMI. MM dry. OP clear.  Neck 
Supple, No LAD.
CARDIAC: RR. Normal S1, S2. No m/r/g. 
LUNGS: CTA B, good air movement bilaterally.
ABDOMEN: NABS. Soft, NT, ND.  No HSM
EXTREMITIES: Diffuse bruising/ecchymosis of the right axilla 
extending down left flank.  Hands with black eschars on dorsal 
surfaces bilaterally. 
.
DISCHARGE PHYSICAL EXAM:
T 97.2 BP 116/70 P 81 RR 20 SaO2 99% RA
GENERAL: elderly F in NAD, lying in bed 
HEENT: No scleral icterus. PERRLA/EOMI. MM dry. OP clear.  Neck 
Supple, No LAD.
CARDIAC: RR. Normal S1, S2. No m/r/g. 
LUNGS: CTA B, good air movement bilaterally.
ABDOMEN: Normoactive bowel sounds. Soft, NT, ND.  No HSM.
EXTREMITIES: 1+ pitting edema in LLE. Pulses 2+ bilaterally. 
NEURO: strength ___ in RLE flexors, ___ in LLE flexors. Strength 
___ in LLE and RLE extensors. Sensation grossly intact 
bilaterally.  
SKIN: Hands with black eschars on dorsal surfaces bilaterally. 
Diffuse bruising on skin. 
 
Pertinent Results:
ADMISSION LABS:
WBC-8.0 RBC-3.40* Hgb-11.5* Hct-34.0* MCV-100* MCH-33.8* 
MCHC-33.7 RDW-20.0* Plt ___
Neuts-74* Bands-1 Lymphs-9* Monos-14* Eos-0 Baso-0 Atyps-0 
Metas-2* Myelos-0 NRBC-1*
Glucose-93 UreaN-26* Creat-0.3* Na-136 K-4.6 Cl-101 HCO3-24 
AnGap-16
Calcium-8.8 Phos-4.1 Mg-2.0
ALT-113* AST-51* AlkPhos-228* TotBili-0.8 BLOOD Lipase-21
.
DISCHARGE LABS:
WBC-3.1* RBC-2.70* Hgb-9.3* Hct-28.6* MCV-106* MCH-34.5* 
MCHC-32.4 RDW-18.8* Plt ___
Neuts-63 Bands-0 Lymphs-13* Monos-13* Eos-0 Baso-0 Atyps-0 
Metas-11* Myelos-0
Glucose-114* UreaN-20 Creat-0.4 Na-138 K-4.0 Cl-105 HCO3-29 
AnGap-8
ALT-72* AST-59* AlkPhos-178* TotBili-0.5
Calcium-8.2* Phos-2.2* Mg-1.7
.
Urine Tests:
___ 06:50PM URINE Color-Yellow Appear-Clear Sp ___
___ 06:50PM URINE Blood-NEG Nitrite-NEG Protein-NEG 
Glucose-NEG Ketone-NEG Bilirub-NEG Urobiln-NEG pH-6.0 Leuks-NEG
.
MICROBIOLOGY: 
Stool culture (___): NEGATIVE
Stool O&P (___): NEGATIVE
Stool C. diff toxin A/B (___): NEGATIVE
Blood cultures (___): NEGATIVE
CMV PCR (___): NEGATIVE
Stool C. diff toxin A/B (___): POSITIVE
.
COLONOSCOPY (___): Distal ileum and colon appeared normal with 
the exception of two whitish 9 mm "nodules/plaques" in the 
cecum. Random biopsies were taken from the distal ileum, 
ascending colon, transverse colon, recto-sigmoid to assess for 
GVHD. Separately the two cecal nodules which readily came off 
completely with biopsy forceps, were submitted as "cecal 
nodules". Cold forceps biopsies were performed for histology at 
the ileum, ascending colon, transverse colon, recto-sigmoid 
colon, cecal nodules. 
.
EGD (___): Normal exam. Biopsies were taken from the ___ 
portion of the duodenum to assess for evidence of GVHD. Cold 
forceps biopsies were performed for histology. 
.
CT CHEST WITHOUT CONTRAST (___):
1. Diffuse narrowing of the airways without associated air 
trapping or 
peribronchial inflammation may represent early changes related 
to 
bronchiolitis obliterans. No air trapping or evidence of 
infection. 
2. Right approach PICC terminates within the right atrium. 
3. Diffusely increased attenuation of the liver most compatible 
with iron 
deposition. 
4. Pericardial calcification likely the residual of prior 
pericarditis. 
5. 3.0 fluid collection within the right breast is smaller since 
___, likely related to a seroma or resolving hematoma, for 
which clinical correlation is recommended. 
6. Diffusely atrophied chest wall musculature. 
.

 
Brief Hospital Course:
Ms. ___ is a ___ year old woman with a history of 
accelerated CML s/p allo-MRD SCT ___ complicated by GVHD of 
the liver, gut, myositis necessitating intubation due to 
respiratory muscle weakness.  She presented with worsening 
blood-streaked diarrhea and elevated LFTs, with hospitalization 
complicated by multiple DVTs and resulting BRBPR caused by 
heparin gtt, with BRBPR, and recurrent C. diff infection.
.
#. DIARRHEA: ___ GVHD and recurrent C diff. Patient has been 
having blood-streaked diarrhea since admission likely secondary 
to GVHD, which progressed to BRBPR with clots after starting 
heparin gtt for DVTs (see below). Heparin was discontinued, but 
patient with continued diarrhea. On ___ C. diff toxin was 
found positive. Pt has had multiple episodes of C diff in past, 
and prophylactic PO vanco had been discontinued on ___. She 
was started on IV flagyl on ___ for her positive C diff), then 
switched to vanco 500mg PO q6hrs per GI recs (used for recurrent 
c diff: 250-500mg PO q6hrs x14 days, then taper). Diarrhea 
progressively improved after this. Patient also has chronic gut 
and liver GVHD. She had EGD and colonoscopy on ___, which 
showed 2 whitish cecal plaques/nodules with biopsy showing focal 
active ileitis, rare apoptotic crypt cells in 
ileum/ascending/transverse colon consistent with (but not 
specific for) GVHD. Also had ileocecal valve nodules composed of 
"predominantly fibrinopurulent exudate consistent with ulcer and 
a very minute strip of surface epithelium". EGD/colonoscopy 
biopsies were found negative for AFB, fungi, CMV, viruses. For 
her C diff, patient is discharged on Vancomycin 500mg PO q6 
hours for 14 days (first day = ___, last day = ___. After 
this, she should restart suppressive therapy: vancomycin 250mg 
q6 hours chronically. For her GVHD, she is discharged on 
prednisone 30mg by mouth daily, and cyclosporine 50mg by mouth 
twice daily. 
.
#. BRBPR: pt admitted with blood-streaked stools, found likely 
secondary to GVHD (confirmed by colonoscopy on ___. When 
heparin gtt was started for multiple ___ DVTs, patient developed 
frank BRBPR with clots. This resolved after discontinuing 
heparin gtt; patient guaiac negative afterward. She was started 
on enoxaparin 40mg BID for DVT prophylaxis with no ensuing 
complications.   
.
#. ELEVATED LFTs: Patient has known GVHD of the liver.  LFTs on 
admission showed elevated AST, ALT and Alk Phosph, found likely 
___s voriconazole, which she is taking for h/o 
paelomyces (___). Her cyclosporine was uptitrated from 25 
BID to 50mg qAM and 75mg qPM. When cyclosporine was decreased to 
50BID, her LFTs rose again (AST 59, ALT 72, Alk Phosph 178). 
**Cyclosporine was increased/decreased/not changed....***
.
#. GVHD: manifested as gut, liver, and muscle GVHD. During 
hospitalization her cyclosporine was increased from 25mg BID to 
50mg BID as it was felt that her diarrhea on presentation was 
from GVHD. Her prednisone was decreased to 30mg by mouth daily. 
Due to her muscle GVHD (diagnosed by rheumatology), patient is 
extremely weak in her ___ flexor muscles. She will continue 
physical therapy at rehab. She was also incidentally found to 
have diffuse airway narrowing consistent with possible early 
bronchiolitis obliterans on chest CT on ___, although no 
clinical signs/symptoms and currently appropriately treated with 
steroids and cyclosporine. 
.
# MULTIPLE ___ DVTs: patient had left ___ swelling during 
hospitalization. ___ on ___ showed multiple BLE DVTs 
involving common femoral, superficial femoral, popliteal and 
posterior tibial and peroneal veins on L>R. ___ swelling L>R. Pt 
started on heparin gtt overnight ___, with a goal PTT of 
60-80. She also has an IVC filter in place. Unfortunately, she 
then had BRBPR overnight with a supratherapeutic PTT (150).  The 
heparin gtt was held. She was started on enoxaparin 40mg BID for 
DVT prophylaxis, without further guaiac positive stools.  
.
# DYSPHAGIA, REDUCED VOCAL CORD MOBILITY: patient has h/o 
dysphagia secondary to muscle GVHD. She had repeat swallow study 
on ___ which showed no aspiration, also noted reduced right 
vocal cord mobility for which she should have outpatient ENT 
followup with Dr. ___ # ___. Swallow eval 
recs were soft solids, nectar thickened liquids, pills crushed 
in puree.
.
#. PAECILOMYCES ON BRONCHIOALVEOLAR LAVAGE: pt found to have 
paecilomyces growth on BAL on ___ (her last 
hospitalization) in Legionella bottle. She was discharged at 
that time on voriconazole with plan to follow up in 2 weeks. 
Voriconazole was continued throughout hospitalization. She will 
need outpatient ID follow-up in ___. 
___ with repeat chest CT prior to appointment, where it will be 
determined whether or not to continue Voriconazole. Beta glucan 
was rechecked and found to be 52 (down from 92 on ___.  
.
# CML s/p MRD AlloSCT: pt is s/p allogeneic SCT on ___. She 
is currently in remission, with no evidence of leukemia at this 
time. Her course has been complicated by GVHD. During 
hospitalization her acyclovir and atovaquone prophylaxis were 
continued. 
.
# MACROCYTIC ANEMIA: normal B12, folate, TSH. Likely anemia of 
chronic disease. B12 and folate supplementation were continued 
during hospitalization. 
.
# TRACHEOSTOMY: pt has h/o tracheostomy after intubation on last 
hospitalization due to respiratory muscle weakness from GVHD. 
Trach was decannulated on ___ by IP without incident. 
Patient was not dyspneic throughout hospitalization. 
.
# HYPERTENSION: home metoprolol and captopril were continued. 
Amlodipine was decreased from 10mg daily to 5mg daily. 

==================================
 
Medications on Admission:
MEDICATIONS, per rehab records:
Trazodone 50 mg PO qHS
Vancomycin 250 mg PO q6H
Jevity 1.2 cal 50 ml/hr
Water 120 ml q6H
Voriconazole 200mg PO q12
Combivent inhalation 3 ml q4H PRN
Nystatin 5ml PO QID
Amlodipine 10 mg daily
Atovaquone 1500 mg PO q12H
Colestyramine 1 packet q12
Acyclovir 400 mg PO q12
Calcium Carbonate 500 mg PO q8H
Alumina/magnesia/simethicone 30 ml PO q6H PRN
Cyclosproine 25 mg PO q12H
Lansoprazole 30 mg PO daily
Acetaminophen 650 mg PO q6H PRN
Fluticasone 2 puffs BID
Prednisone 30 mg PO BID
Metoprolol 100 mg PO q6H
Captopril 12.5 mg PO q8H
Diazeptam 2 mg PO qHS PRN
Lorazepam 1 mg IV q6H PRN
Cholecalciferol 400 units PO q12H
Heparin 5000 units SC q12
Lidocaine 2% 10ml PO q8H PRN
.
DIFFERENCES FROM PRIOR D/C SUMMARY:
- Atovaquone is listed as daily on d/c summary
- PO vanc is not on d/c summary
- immunosuppression was IV solumedrol 30 mg BID and IV 
cyclosporine
 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
Primary diagnoses: 
1. GVHD of gut, liver and muscle
2. C. difficile diarrhea

Secondary diagnosis: 
1. Accelerated CML 
GVHD of gut, liver and muscle

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Out of Bed with assistance to chair or 
wheelchair.

 
Discharge Instructions:
Dear Ms. ___,

It was a pleasure participating in your care at ___ 
___. You were admitted to the hospital for 
increasing diarrhea and elevations in your liver enzymes. We did 
some tests, which showed that this was probably not due to an 
infection. You also had an upper and lower endoscopy which 
showed signs of GVHD. We will continued to treat this with 
cyclosporin and prednisone. In addition, you had a recurrence of 
diarrhea caused by C. difficile (which you have had several 
times in the past). We are treating this with an antibiotic 
called vancomycin. 

Please attend the follow-up appointments listed below with your 
oncologist Dr. ___ the voice specialist Dr. ___. 

We made the following changes to your medications:
1. STARTED enoxaparin 400mg subcutaneous twice daily
2. STARTED alendronate sodium 5mg by mouth daily
3. STARTED ipratropium bromide MDI 2 puffs every 4 hours as 
needed for wheezing/shortness of breath
4. STARTED clonazepam 1mg by mouth at bedtime as needed for 
insomnia
5. INCREASED vancomycin to 500mg by mouth every 6 hours 
6. INCREASED cyclosporin to 50mg by mouth twice daily
7. DECREASED prednisone to 30mg by mouth once daily
8. DECREASED atovaquone to 1500mg by mouth once daily
9. DECREASED amlodipine to 5mg by mouth once daily
10. DECREASED cholecalciferol to 400 units by mouth once daily
11. STOPPED trazodone
12. STOPPED Jevity (tube feeds)
13. STOPPED Combivent
14. STOPPED cholestyramine
15. STOPPED aluminum/magnesium/simethicone
16. STOPPED diazepam
17. STOPPED lorazepam
18. STOPPED heparin subcutaneous injections
19. STOPPED lidocaine 2% 
20. STOPPED fluticasone
 
Followup Instructions:
___